US05770595
Dimethylsulphoxide (102 mg; 1.3 mmol) was added dropwise to a solution of oxalyl chloride (91.7 mg; 0.72 mmol) in 5 ml of dry dichloromethane at -78° C. A solution of 1-(10-hydroxyundecanyl)-3,7-dimethylxanthine (0.23 g; 0.66 mmol) in 5 ml of dichloromethane was added and the resulting mixture stirred for 15 minutes. Triethylamine (0.332 mg; 3.29 mmol) was then added and the reaction warmed to room temperature. After stirring the reaction for an hour, the mixture was poured into 25 ml of water and extracted with 3×25 ml of dichloromethane. The combined organic extracts were successively washed with 1% hydrogen chloride (20 ml), saturated sodium bicarbonate solution (20 ml) and brine (20 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The crude product obtained was further purified by flash chromatography over silica gel using a 20% hexane/ethyl acetate eluant, resulting in 150 mg of 1-(10-oxoundecanyl)-3,7-dimethylxanthine (65.8% yield).

reactant | Dimethylsulphoxide | 1.3 mmol, 102 mg | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.72 mmol, 91.7 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(10-hydroxyundecanyl)-3,7-dimethylxanthine | 0.66 mmol, 0.23 g | OC(CCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C | C18H30N4O3
reactant | Triethylamine | 3.29 mmol, 0.332 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | 25 ml | O | H2O
product | 1-(10-oxoundecanyl)-3,7-dimethylxanthine | 150 mg, 65.8% yield | O=C(CCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C | C18H28N4O3
